US08404649B2
Preparation 3: methyl 4-formyl-1-naphthoate
A solution of (E)-methyl 4-styryl-1-naphthoate (Preparation 2, 1.31 g, 2.0 mmol) in 3:1 CH2Cl2/MeOH (40 mL) was cooled to −78° C. Sample was subjected to ozonylysis for 10 minutes until blue color was noted. Reaction was quenched with dimethyl sulfide (400 μL) and allowed to warm to room temperature. The residue was purified by chromatography on silica gel eluting from 100% heptane to 50:50 EtOAc:heptane to afford a solid (0.78 g, 80%). 1H NMR (CDCl3) δ ppm: 10.52 (1H), 9.28 (1H), 8.83 (1H), 8.22 (1H), 8.04 (1H), 7.79-7.70 (2H), 4.08 (3H).

reactant | (E)-methyl 4-styryl-1-naphthoate | 2.0 mmol, 1.31 g | C(=C\C1=CC=CC=C1)/C1=CC=C(C2=CC=CC=C12)C(=O)OC | C20H16O2
reactant | CH2Cl2 MeOH | 40 mL | C(Cl)Cl.CO
product | methyl 4-formyl-1-naphthoate | 0.78 g, 80% | C(=O)C1=CC=C(C2=CC=CC=C12)C(=O)OC | C13H10O3
